US05157041
A solution of 397 mg of 1-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-octahydro-(3aS,6aS)-cyclopenta[b]pyrrole-2(S)-carboxamide in 20 ml of ethanol was hydrogenated over 10% palladium-on-carbon at 20° C. and under atmospheric pressure for 4 hours. The catalyst was removed by filtration and the filtrate was evaporated to give 312 mg of 1-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-octahydro-(3aS,6aS)-cyclopenta[b]pyrrole-2(S)-carboxamide as a pale yellow gum; MS: m/e 488 [M+H]+.

reactant | 1-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-octahydro-(3aS,6aS)-cyclopenta[b]pyrrole-2(S)-carboxamide | 397 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](CN1[C@@H]2[C@H](C[C@H]1C(=O)NC(C)(C)C)CCC2)O)CC2=CC=CC=C2 | C34H47N5O6
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 1-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-octahydro-(3aS,6aS)-cyclopenta[b]pyrrole-2(S)-carboxamide | 312 mg | N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](CN1[C@@H]2[C@H](C[C@H]1C(=O)NC(C)(C)C)CCC2)O)CC2=CC=CC=C2 | C26H41N5O4
